US07687503B2
5.2. 2-(methylamino)-2-oxoethyl 1-piperazinecarboxylate hydrochloride
25 ml of a 6N solution of hydrogen chloride in isopropanol are added to a solution of 2.68 g (8.9 mmol) of 2-(methylamino)-2-oxoethyl 1,1-dimethylethyl-1,4-piperazinedicarboxylate, obtained according to step 5.1., in 25 ml of dichloromethane. Stirring is continued at room temperature for 1 hour. The organic phase is removed by filtration through a hydrophobic cartridge and the acidic aqueous phase is concentrated under reduced pressure. After crystallization from isopropanol, 2.05 g of product are obtained in the form of a white solid, and are used without further purification in the following step.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(methylamino)-2-oxoethyl 1,1-dimethylethyl-1,4-piperazinedicarboxylate | 8.9 mmol, 2.68 g | CC(C)(C)C1N(CCN(C1)C(=O)[O-])C(=O)OCC(=O)NC
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-(methylamino)-2-oxoethyl 1-piperazinecarboxylate hydrochloride | Cl.N1(CCNCC1)C(=O)OCC(=O)NC | InChI=1S/C8H15N3O3.ClH/c1-9-7(12)6-14-8(13)11-4-2-10-3-5-11;/h10H,2-6H2,1H3,(H,9,12);1H
